US08034937B2
a) (S)-2-[6-Chloro-3-(2,2,2-trifluoro-acetyl)-indol-1-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of 2.2 g (8.7 mmol) 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone, 3.7 g (13 mmol) (S)-2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (preparation described in Tetrahedron 2006, 62, 4584-4589) and 5.7 g (18 mmol) cesium carbonate in 44 ml dry 1,3-dimethyl-3,4,5,6-tetrahydropyrimidinone (DMPU) was stirred for 48 h at 80° C. The reaction mixture was diluted with 100 ml water and extracted with ethyl acetate (3×100 ml). The combined organic layers were dried over sodium sulfate and concentrated to dryness. Residual DMPU was removed by kugelrohrdistillation in high vacuo (ca. 1 mbar) at 120° C. Flash chromatography gave the title compound (1.7 g, 46%) as a light yellow solid.

reactant | 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 8.7 mmol, 2.2 g | ClC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5ClF3NO
reactant | (S)-2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 13 mmol, 3.7 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COS(=O)(=O)C | C11H21NO5S
reactant | cesium carbonate | 18 mmol, 5.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,3-dimethyl-3,4,5,6-tetrahydropyrimidinone | 44 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | water | 100 ml | O | H2O
product | (S)-2-[6-Chloro-3-(2,2,2-trifluoro-acetyl)-indol-1-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.7 g, 46% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN1C=C(C2=CC=C(C=C12)Cl)C(C(F)(F)F)=O | C20H22ClF3N2O3
